US05852014
2-(1-Piperidyl)ethyl 3,4-dihydro-2 H-[1,3]oxazino[3,2-a]indole-10-Carboxylate (E4)
2-(1-Piperidyl)ethyl 1 H-indole-3-carboxylate was treated initially with N-chlorosuccinimide (1.5 equivalents) for 2 h, then with 3-bromo-1-propanol (3 equivalents) for 21 h, followed by anhydrous potassium carbonate in acetone, using the method described in Example 1b. The crude product was purified using the same chromatography conditions as in Example 1b to afford the title compound. (E4) as a pale yellow oil (15%). This was converted to its oxalate salt and crystallised from acetone mp 174°-177° C.

reactant | 2-(1-Piperidyl)ethyl 1 H-indole-3-carboxylate | N1C=C(C2=CC=CC=C12)C(=O)OCCN1CCCCC1 | C16H20N2O2
reactant | N-chlorosuccinimide | 1.5 equivalents | ClN1C(CCC1=O)=O | C4H4ClNO2
reactant | 3-bromo-1-propanol | 3 equivalents | BrCCCO | C3H7BrO
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | acetone | CC(=O)C | C3H6O
product | 2-(1-Piperidyl)ethyl 3,4-dihydro-2 H-[1,3]oxazino[3,2-a]indole-10-Carboxylate | O1CCCN2C1=C(C=1C=CC=CC21)C(=O)OCCN2CCCCC2 | C19H24N2O3
